**************************************************
* Manufacturer:           Würth Elektronik 
* Kinds:                  ESD Suppressor
* Matchcode:              WE-VE ULC
* Library Type:           LTspice
* Version:                rev25a
* Created/modified by:    Ella      
* Date and Time:          2025-02-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
* The models were generated by Würth Elektronik in cooperation with Graz University of Technology - Institute of Electronics
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 0402_82307050029 Anode Cathode
E1 N005 0 Positive Cathode 1
V1 Snap_A Snap_B 690
D1 0 Snap_B idealD
C1 snap_c 0 1500p
R1 snap_c 0 1e6
D2 Test N007 idealD
V2 N007 N011 100
R2 N011 0 50
D3 N009 Test idealD
R3 N009 0 50
R4 Snap_C_LP snap_c 11
C2 Snap_C_LP 0 24p
S1 V3 Positive Snap_C_LP 0 snapback1SW
F1 0 Test V3 -1
R5 0 Test 1e100
R6 Cathode Positive 1e100
R7 Snap_A N005 1K
D4 N020 Cathode mainIV
R8 0 Snap_B 1e100
R9 0 snap_c 1e100
V3 B V3 0
R10 Test snap_c 1000
G1 0 snap_c 0 Snap_B -1
F2 0 N023 V4 +1
R11 N023 0 1e3
V4 B N017 0
S2 N018 N017 SBCM_C 0 sbcmSW
V5 SBCM_C N023 7.5
C3 N023 0 200p
D5 N023 N029 idealD
D6 N026 N023 idealD
R12 N033 0 50
R13 N026 0 50
F3 0 N024 V6 +1
R14 N024 0 1e3
V6 N018 N019 0
S3 N020 N019 CM_C 0 cmSW
V7 CM_C N024 2.5
C4 N024 0 50n
D7 N024 N030 idealD
D8 P001 N024 idealD
R15 N034 0 50
R16 P001 0 50
V8 N029 N033 100
V9 N030 N034 100
R17 N023 0 1e6
R18 N024 0 1e6
D12 Cathode N016 mainIV
F5 0 N021 V13 -1
R29 N021 0 1e3
V13 B_N N013 0
S5 N014 N013 SBCM_C_N 0 sbcmSW
V14 SBCM_C_N N021 7.5
C7 N021 0 200p
D13 N021 N027 idealD
D14 N025 N021 idealD
R30 N031 0 50
R31 N025 0 50
F6 0 N022 V15 -1
R32 N022 0 1e3
V15 N014 N015 0
S6 N016 N015 CM_C_N 0 cmSW
V16 CM_C_N N022 2.5
C8 N022 0 50n
D15 N022 N028 idealD
D16 P002 N022 idealD
R33 N032 0 50
R34 P002 0 50
V17 N027 N031 100
V18 N028 N032 100
R35 N021 0 1e6
R36 N022 0 1e6
L1 Anode N001 2n
C9 N001 N002 0.105p
R37 N002 Cathode 50
R38 N001 Cathode 1e7
D17 N001 Positive idealD
D18 Positive Cathode Before_snapback
D19 Negative N001 idealD
D20 Cathode Negative Before_snapback
E2 N006 0 Negative Cathode -1
V10 Snap_A_N Snap_B_N 690
D9 0 Snap_B_N idealD
C5 snap_c_N 0 1500p
R19 snap_c_N 0 1e6
D10 Test_N N008 idealD
V11 N008 N012 100
R20 N012 0 50
D11 N010 Test_N idealD
R21 N010 0 50
R22 Snap_C_LP_N snap_c_N 11
C6 Snap_C_LP_N 0 24p
S4 V3 Negative Snap_C_LP_N 0 snapback1SW
F4 0 Test_N V12 +1
R23 0 Test_N 1e100
R24 Cathode Negative 1e100
R25 Snap_A_N N006 1K
R26 0 Snap_B_N 1e100
R27 0 snap_c_N 1e100
V12 B_N V3 0
R28 Test_N snap_c_N 800
G2 0 snap_c_N 0 Snap_B_N -1
.model D D
.model snapback1SW SW(Ron=0.001 Roff=1e6 Von=20 Voff=19.8)
.model mainIV D(Is=6.8e-17 N=47 Rs=0.7)
.model sbcmSW SW(Ron=0.001 Roff=80 Von=30 Voff=0)
.model cmSW SW(Ron=0.001 Roff=30 Von=8 Voff=0)
* Positive
* Negative
.model idealD D(Is=1e-14 N=0.1 Rs=0.001 )
.model Before_snapback D(Is=2.55e-16 N=2000 Rs=100)
.ic v(snap_c)=0
.ic v(snap_c_N)=0
.ends 0402_82307050029
******
.subckt 0603_82306050029 Anode Cathode
E1 N005 0 Positive Cathode 1
V1 Snap_A Snap_B 500
D1 0 Snap_B idealD
C1 snap_c 0 1n
R1 snap_c 0 1e6
D2 Test N007 idealD
V2 N007 N011 100
R2 N011 0 50
D3 N009 Test idealD
R3 N009 0 50
R4 Snap_C_LP snap_c 11
C2 Snap_C_LP 0 24p
S1 V3 Positive Snap_C_LP 0 snapback1SW
F1 0 Test V3 -1
R5 0 Test 1e100
R6 Cathode Positive 1e100
R7 Snap_A N005 1K
D4 N020 Cathode mainIV
R8 0 Snap_B 1e100
R9 0 snap_c 1e100
V3 B V3 0
R10 Test snap_c 1000
G1 0 snap_c 0 Snap_B -1
F2 0 N023 V4 +1
R11 N023 0 1e3
V4 B N017 0
S2 N018 N017 SBCM_C 0 sbcmSW
V5 SBCM_C N023 12.5
C3 N023 0 810p
D5 N023 N029 idealD
D6 N026 N023 idealD
R12 N033 0 50
R13 N026 0 50
F3 0 N024 V6 +1
R14 N024 0 1e3
V6 N018 N019 0
S3 N020 N019 CM_C 0 cmSW
V7 CM_C N024 5.5
C4 N024 0 150n
D7 N024 N030 idealD
D8 P001 N024 idealD
R15 N034 0 50
R16 P001 0 50
V8 N029 N033 100
V9 N030 N034 100
R17 N023 0 1e6
R18 N024 0 1e6
D12 Cathode N016 mainIV
F5 0 N021 V13 -1
R29 N021 0 1e3
V13 B_N N013 0
S5 N014 N013 SBCM_C_N 0 sbcmSW
V14 SBCM_C_N N021 12.5
C7 N021 0 810p
D13 N021 N027 idealD
D14 N025 N021 idealD
R30 N031 0 50
R31 N025 0 50
F6 0 N022 V15 -1
R32 N022 0 1e3
V15 N014 N015 0
S6 N016 N015 CM_C_N 0 cmSW
V16 CM_C_N N022 5.5
C8 N022 0 150n
D15 N022 N028 idealD
D16 P002 N022 idealD
R33 N032 0 50
R34 P002 0 50
V17 N027 N031 100
V18 N028 N032 100
R35 N021 0 1e6
R36 N022 0 1e6
L1 Anode N001 1.306n
C9 N001 N002 0.17p
R37 N002 Cathode 28
R38 N001 Cathode 1e7
D17 N001 Positive idealD
D18 Positive Cathode Before_snapback
D19 Negative N001 idealD
D20 Cathode Negative Before_snapback
E2 N006 0 Negative Cathode -1
V10 Snap_A_N Snap_B_N 500
D9 0 Snap_B_N idealD
C5 snap_c_N 0 1n
R19 snap_c_N 0 1e6
D10 Test_N N008 idealD
V11 N008 N012 100
R20 N012 0 50
D11 N010 Test_N idealD
R21 N010 0 50
R22 Snap_C_LP_N snap_c_N 11
C6 Snap_C_LP_N 0 24p
S4 V3 Negative Snap_C_LP_N 0 snapback1SW
F4 0 Test_N V12 +1
R23 0 Test_N 1e100
R24 Cathode Negative 1e100
R25 Snap_A_N N006 1K
R26 0 Snap_B_N 1e100
R27 0 snap_c_N 1e100
V12 B_N V3 0
R28 Test_N snap_c_N 800
G2 0 snap_c_N 0 Snap_B_N -1
.model D D
.model snapback1SW SW(Ron=0.001 Roff=1e6 Von=30 Voff=29.8)
.model mainIV D(Is=6.8e-17 N=33 Rs=0.8)
.model sbcmSW SW(Ron=0.001 Roff=50 Von=30 Voff=0)
.model cmSW SW(Ron=0.001 Roff=30 Von=20 Voff=0)
* Positive
* Negative
.model idealD D(Is=1e-14 N=0.1 Rs=0.001 )
.model Before_snapback D(Is=2.55e-16 N=2000 Rs=100)
.ic v(snap_c)=0
.ic v(snap_c_N)=0
.ends 0603_82306050029
******
.subckt 0603_82306120029 Anode Cathode
E1 N005 0 Positive Cathode 1
V1 Snap_A Snap_B 600
D1 0 Snap_B idealD
C1 snap_c 0 2n
R1 snap_c 0 1e6
D2 Test N007 idealD
V2 N007 N011 100
R2 N011 0 50
D3 N009 Test idealD
R3 N009 0 50
R4 Snap_C_LP snap_c 11
C2 Snap_C_LP 0 24p
S1 V3 Positive Snap_C_LP 0 snapback1SW
F1 0 Test V3 -1
R5 0 Test 1e100
R6 Cathode Positive 1e100
R7 Snap_A N005 1K
D4 N020 Cathode mainIV
R8 0 Snap_B 1e100
R9 0 snap_c 1e100
V3 B V3 0
R10 Test snap_c 1000
G1 0 snap_c 0 Snap_B -1
F2 0 N023 V4 +1
R11 N023 0 1e3
V4 B N017 0
S2 N018 N017 SBCM_C 0 sbcmSW
V5 SBCM_C N023 25
C3 N023 0 200p
D5 N023 N029 idealD
D6 N026 N023 idealD
R12 N033 0 50
R13 N026 0 50
F3 0 N024 V6 +1
R14 N024 0 1e3
V6 N018 N019 0
S3 N020 N019 CM_C 0 cmSW
V7 CM_C N024 2.5
C4 N024 0 50n
D7 N024 N030 idealD
D8 P001 N024 idealD
R15 N034 0 50
R16 P001 0 50
V8 N029 N033 100
V9 N030 N034 100
R17 N023 0 1e6
R18 N024 0 1e6
D12 Cathode N016 mainIV
F5 0 N021 V13 -1
R29 N021 0 1e3
V13 B_N N013 0
S5 N014 N013 SBCM_C_N 0 sbcmSW
V14 SBCM_C_N N021 25
C7 N021 0 200p
D13 N021 N027 idealD
D14 N025 N021 idealD
R30 N031 0 50
R31 N025 0 50
F6 0 N022 V15 -1
R32 N022 0 1e3
V15 N014 N015 0
S6 N016 N015 CM_C_N 0 cmSW
V16 CM_C_N N022 2.5
C8 N022 0 50n
D15 N022 N028 idealD
D16 P002 N022 idealD
R33 N032 0 50
R34 P002 0 50
V17 N027 N031 100
V18 N028 N032 100
R35 N021 0 1e6
R36 N022 0 1e6
L1 Anode N001 1.2n
C9 N001 N002 0.185p
R37 N002 Cathode 29.5
R38 N001 Cathode 1e7
D17 N001 Positive idealD
D18 Positive Cathode Before_snapback
D19 Negative N001 idealD
D20 Cathode Negative Before_snapback
E2 N006 0 Negative Cathode -1
V10 Snap_A_N Snap_B_N 600
D9 0 Snap_B_N idealD
C5 snap_c_N 0 2n
R19 snap_c_N 0 1e6
D10 Test_N N008 idealD
V11 N008 N012 100
R20 N012 0 50
D11 N010 Test_N idealD
R21 N010 0 50
R22 Snap_C_LP_N snap_c_N 11
C6 Snap_C_LP_N 0 24p
S4 V3 Negative Snap_C_LP_N 0 snapback1SW
F4 0 Test_N V12 +1
R23 0 Test_N 1e100
R24 Cathode Negative 1e100
R25 Snap_A_N N006 1K
R26 0 Snap_B_N 1e100
R27 0 snap_c_N 1e100
V12 B_N V3 0
R28 Test_N snap_c_N 800
G2 0 snap_c_N 0 Snap_B_N -1
.model D D
.model snapback1SW SW(Ron=0.001 Roff=1e6 Von=20 Voff=19.8)
.model mainIV D(Is=6.8e-17 N=35 Rs=0.8)
.model sbcmSW SW(Ron=0.001 Roff=100 Von=100 Voff=0)
.model cmSW SW(Ron=0.001 Roff=30 Von=8 Voff=0)
* Positive
* Negative
.model idealD D(Is=1e-14 N=0.1 Rs=0.001 )
.model Before_snapback D(Is=2.55e-16 N=2000 Rs=100)
.ic v(snap_c)=0
.ic v(snap_c_N)=0
.ends 0603_82306120029
******
